US03988339
8-Amino-7-chloroisoquinoline is refluxed in excess acetic anhydride for 2 hours or until the reaction is complete. The mixture is then poured into water, neutralized with 10% aqueous sodium bicarbonate solution and extracted with chloroform. The chloroform extract is washed with water, dried over sodium sulfate and concentrated to give 8-acetamido-7-chloroisoquinoline.

reactant | 8-Amino-7-chloroisoquinoline | NC=1C(=CC=C2C=CN=CC12)Cl | C9H7ClN2
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 8-acetamido-7-chloroisoquinoline | C(C)(=O)NC=1C(=CC=C2C=CN=CC12)Cl | C11H9ClN2O
